US04199591
2-Methyl-3a,4,7,7a-tetrahydro-4,7-ethano-1,2-benzisothiazol 3(2H)-one 1-oxide
A 30 ml solution of ethylene dichloride containing 3.3 g (0.025 mole) of 2-methyl-4-isothiazolin-3-one 1-oxide and 2.0 g (0.025 mole) of cyclohexadiene is heated at 52°-53° C. and stirred overnight. The solution is concentrated to give 4.9 g (93%) of a white solid, m.p. 118°-120° C. which can be recrystallized from ethyl acetate.

reactant | ethylene dichloride | 0.025 mole, 3.3 g | C(CCl)Cl | C2H4Cl2
reactant | 2-methyl-4-isothiazolin-3-one 1-oxide | CN1S(C=CC1=O)=O | C4H5NO2S
reactant | cyclohexadiene | 0.025 mole, 2.0 g | C1=CC=CCC1 | C6H8
product | 2-Methyl-3a,4,7,7a-tetrahydro-4,7-ethano-1,2-benzisothiazol 3(2H)-one 1-oxide | 4.9 g, 93% | CN1S(C2C(C1=O)C1C=CC2CC1)=O | C10H13NO2S
